US06706719B1
Intermediate 2 Ethyl 4-Hydroxymethyltetrahydropyran-4carboxylate
Intermediate 3 Ethyl 4-(Methanesulfonyloxy)methyltetrahydropyran-4-carboxylate Methanesulfonyl chloride (4.6 ml) was added to a solution of intermediate 2 (1 1.0 g) at 0° C. in dichloromethane (30 ml), followed by triethylamine (8.0 ml). The mixture was stirred for 1 h, then washed with citric acid (5% aq, 30 ml), saturated sodium bicarbonate and brine. The organic layer was separated, and then dried (MgSO4) and evaporated to give the title compound as colourless oil (15.2 g).

reactant | Ethyl 4-(Methanesulfonyloxy)methyltetrahydropyran-4-carboxylate Methanesulfonyl chloride | 4.6 ml | CS(=O)(=O)Cl.CS(=O)(=O)OCC1(CCOCC1)C(=O)OCC
reactant | triethylamine | 8.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Ethyl 4-Hydroxymethyltetrahydropyran-4carboxylate | 15.2 g | OCC1(CCOCC1)C(=O)OCC | C9H16O4
